US07767677B2
Synthesis of 1-ethyl-3-{6-[4-(2-trifluoromethylbenzoyl)-piperazin-1-yl]pyridazin-3-yl}-imidazolidin-2-one
Following the procedure as described in Example 2, making variations only as required to use 1-iodoethane in place of 1-iodo-3-methylbutane to react with 1-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazin-3-yl}imidazolidin-2-one, the title compound was obtained as a white solid in 72% yield (0.061 g). 1H NMR (300 MHz, CDCl3) δ 8.44 (d, J=9.9 Hz, 1H), 7.72-7.69 (m, 1H), 7.62-7.49 (m, 2H), 7.34-7.32 (m, 1H), 6.99 (d, J=9.9 Hz, 1H), 4.08 (t, J=7.8 Hz, 2H), 3.95-3.84 (m, 2H), 3.6 (t, J=5.1 Hz, 2H), 3.52-3.47 (m, 4H), 3.38-3.25 (m, 4H), 1.16 (t, J=6.9 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ167.4, 156.9, 156.8, 150.03, 134.4, 132.2, 129.3, 127.4, 127.2, 127.02, 126.8, 126.6, 126.2, 125.4, 121.7, 119.9, 118.1, 116.2, 46.4, 45.9, 45.5, 41.2, 41.1, 41.03, 38.3, 12.5. MS (ES+) m/z 449 (M+1).

reactant | 1-iodoethane | ICC | C2H5I
reactant | 1-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazin-3-yl}imidazolidin-2-one | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)N2C(NCC2)=O)C=CC=C1)(F)F | C19H19F3N6O2
product | 1-ethyl-3-{6-[4-(2-trifluoromethylbenzoyl)-piperazin-1-yl]pyridazin-3-yl}-imidazolidin-2-one | 72% yield | C(C)N1C(N(CC1)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C21H23F3N6O2
